US05496843
3) Diethyl 2-nitro-5-phthalimidomethylphenylmalonate
To a suspension of 60% sodium hydride (5.8 g, 145 mmol) in DMF (150 mL) was added diethyl malonate (26.4 mL, 175 mmol) at room temperature, while the sodium hydride was washed with dry hexane before use. The mixture was heated at 40° C. for 1.5 h, allowed to cool at room temperature and 1-nitro-4-phthalimidomethyl-2-trifluoromethanesulfonyloxybenzene (25 g, 58 mmol) was added. The mixture was stirred overnight at room temperature, poured into 3% potassium hydrogen sulfate, and extracted with a 1:1 toluene/ethyl acetate. The extract was washed successively with 5% potassium hydrogen sulfate, water, saturated aqueous sodium bicarbonate, and brine, dried over magnesium sulfate, and concentrated. The unreacted diethyl malonate was distilled out in vacuo and the residual solid was washed with 1:1 diethyl ether/hexane to give 24.5 g of the title compound: 1H NMR (CDCl3) δ8.04 (d, 1H, J=8.9 Hz), 7.85~7.90 (m, 2H), 7.72~7.78 (m, 2H), 7.56 (d, 1H, J=8.9 Hz), 7.54 (s, 1H), 5.24 (s, 1H), 4.90 (s, 2H), 4.27 (q, 4H, J=7.3 Hz), 1.28 (t, 6H, J=7.3 Hz).

reactant | sodium hydride | 145 mmol, 5.8 g | [H-].[Na+]
reactant | diethyl malonate | 175 mmol, 26.4 mL | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 1-nitro-4-phthalimidomethyl-2-trifluoromethanesulfonyloxybenzene | 58 mmol, 25 g | [N+](=O)([O-])C1=C(C=C(C=C1)CN1C(C=2C(C1=O)=CC=CC2)=O)OS(=O)(=O)C(F)(F)F | C16H9F3N2O7S
reactant | potassium hydrogen sulfate | S(=O)(=O)(O)[O-].[K+]
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | Diethyl 2-nitro-5-phthalimidomethylphenylmalonate | 24.5 g | [N+](=O)([O-])C1=C(C=C(C=C1)CN1C(C=2C(C1=O)=CC=CC2)=O)C(C(=O)OCC)C(=O)OCC | C22H20N2O8
